US06121182
(2) Synthesis of dimethyl(1-indenyl)silyl chloride
In a 2-liter flask were charged 50 g (0.43 mol) of indene and 600 ml of dry n-hexane, to which was dripped down 270 ml of a hexane solution of 1.6 M n-butyllithium at 0° C. The mixture was stirred at room temperature for 10 hours, to which was added 111 g (0.86 mol) of dimethyidichlorosilane and the mixture was stirred as was at room temperature for 3 hours. After it was filtered through a G-4 filter, the reaction mixture was distilled under reduced pressure to remove volatile components. The crude product thus obtained was purified by distillation under reduced pressure (100° C., 7 mmHg) under argon atmosphere. As a result, 78 g of the target compound was obtained. Yield: 87%.

reactant | indene | 0.43 mol, 50 g | C1C=CC2=CC=CC=C12 | C9H8
reactant | n-butyllithium | 1.6 M | C(CCC)[Li]
reactant | dimethyidichlorosilane | 0.86 mol, 111 g | C[Si](Cl)(Cl)C | C2H6Cl2Si
solvent | hexane | 270 ml | CCCCCC | C6H14
solvent | n-hexane | 600 ml | CCCCCC | C6H14
product | dimethyl(1-indenyl)silyl chloride | 78 g, Yield: 87% | C[Si](C1C=CC2=CC=CC=C12)(C)Cl | C11H13ClSi
